US07244744B2
To a solution of 4-(2-amino-phenylamino)-piperidine-1-carboxylic acid ethyl ester (0.76 g, 2.9 mmol) and triethylamine (0.81 ml, 5.8 mmol) in methylene chloride (10 mL) at 0° C. was added a solution of thiophosgene (0.22 mL, 2.9 mmol) in methylene chloride (10 mL) at room temperature. The reaction mixture was stirred for 2 h then quenched with 1N sodium hydroxide. The organic phase was separated and dried over sodium sulfate, filtered and concentrated. The crude product (i.e.; 4-(2-thioxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid ethyl ester) was treated with 10% sodium hydroxide (10 mL) and refluxed for 4 h. The reaction was allowed to cool to room temperature and the aqueous layer was washed with ethyl ether (50 mL), acidified to pH<2 with 6N hydrochloric acid, washed with ethyl ether (50 ml) and filtered (to remove a small amount of precipitated solid). The aqueous layer was adjusted to pH 10 by slowly adding sodium carbonate and then cooled to 0° C. The solid that formed was collected by filtration to give 1-piperidin-4-yl-1,3-dihydro-benzoimidazole-2-thione (0.2 g).

reactant | 4-(2-amino-phenylamino)-piperidine-1-carboxylic acid ethyl ester | 2.9 mmol, 0.76 g | C(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)N | C14H21N3O2
reactant | triethylamine | 5.8 mmol, 0.81 ml | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 2.9 mmol, 0.22 mL | C(=S)(Cl)Cl | CCl2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-piperidin-4-yl-1,3-dihydro-benzoimidazole-2-thione | 0.2 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=S | C12H15N3S
